US08053588B2
Firstly, a mixture of 4,4′-diiodotolan (171 mg, 0.40 mmol), PdCl2(PPh3)2 (27.9 mg, 0.040 mmol) and CuI (7.6 mg, 0.040 mmol) was added with dist. THF (3 mL), dist. Et3N (3 mL) and trimethylsilylacetylene (140 μL, 0.99 mmol). The resultant mixture was then stirred under a nitrogen atmosphere at 50° C. for 17 hours to obtain a reaction mixture. Subsequently, the reaction mixture was diluted with CH2Cl2. After that, an organic layer was washed with sat. NaCl, and the washed organic layer was then dried with MgSO4. The dried organic layer was filtered and concentrated to obtain a crude product (I). The obtained crude product (I) was separated and purified by silica gel column chromatography (hexane/EtOAc=10/1) to obtain 4,4′-bis(trimethylsilylethynyl)tolan.

reactant | 4,4′-diiodotolan | 0.40 mmol, 171 mg | IC1=CC=C(C=C1)C#CC1=CC=C(C=C1)I | C14H8I2
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | Et3N | 3 mL | CCN(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 0.99 mmol, 140 μL | C[Si](C)(C)C#C | C5H10Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.040 mmol, 27.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.040 mmol, 7.6 mg | [Cu]I
product | 4,4′-bis(trimethylsilylethynyl)tolan | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C#C[Si](C)(C)C | C24H26Si2
